US04236004
8-Ethyl-7,8-dihydro-5-hydroxy-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a 40 ml. solution of NaOEt (1.0 g. Na-0.042 mole) was added 6.8 g. (0.042 mole) of diethyl malonate and this is stirred 10 minutes, then stripped to dryness. Dimethylformamide was added until a solution formed and to this was added 5.7 g. (0.021 mole) of 1-ethyl-7-phenyl-2H-pyrimido[4,5-d][1,3]-oxazine-2,4(1H)-dione and the mixture heated at reflux for 2 hours. The reaction was then cooled and poured into dilute HCl and the resulting precipitate filtered off and rinsed well with water. Recrystallization with hexane-ethyl acetate gave 5.1 g. of the title product--m.p. 177°-180° C.

reactant | NaOEt | 0.042 mole, 1.0 g | CC[O-].[Na+]
reactant | diethyl malonate | 0.042 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-ethyl-7-phenyl-2H-pyrimido[4,5-d][1,3]-oxazine-2,4(1H)-dione | 0.021 mole | C(C)N1C(OC(C2=C1N=C(N=C2)C2=CC=CC=C2)=O)=O | C14H11N3O3
reactant | HCl | Cl | ClH
solvent | Dimethylformamide | CN(C=O)C | C3H7NO
product | 8-Ethyl-7,8-dihydro-5-hydroxy-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)O | C18H17N3O4
